US07662965B2
Synthesis of 3-(3-((5-(4-chloro-2-nitrophenyl)furan-2-yl)methylene)-3.4.5.6-tetrahydropyridin-2-yl)pyridine dihydrochloride
3-(5-Ammoniopentanoyl)pyridinium chloride (109 mg, 0.43 mmol) and 5-(4-chloro-2-nitrophenyl)furfural (131 mg, 0.52 mmol) were combined in a reaction vessel and treated with isopropanol (6 mL). The reaction vessel was sealed and the reaction was heated to 80° C. with stirring overnight. The reaction was then cooled to room temperature, concentrated under reduced pressure and treated with saturated NaHCO3(aq). This mixture was then extracted three times with EtOAc. The EtOAc extracts were washed with brine, combined, dried over Na2SO4, filtered and concentrated under reduced pressure. The recovered material was eluted through a 20 gram column of silica gel with 10.5:7:7:1:0.1 hexane:MtBE:CH2Cl2:MeOH:NH4OH (800 mL). One sample was recovered. This material was dissolved into methanol and treated with 2 equivalents of 6 N HCl(aq). This solution was concentrated under reduced pressure and the recovered material re-crystallized from a mix of isopropanol and ether. The crystals were recovered by vacuum filtration, washed with a 20% solution of isopropanol in hexane, and then with ether, then dried under vacuum giving 95 mg (47%) of a yellow solid. LC-MS: RT=5.65 min, [M+H]+=394.0.

reactant | 3-(5-Ammoniopentanoyl)pyridinium chloride | 0.43 mmol, 109 mg | [Cl-].[NH3+]CCCCC(=O)C=1C=[NH+]C=CC1.[Cl-]
reactant | 5-(4-chloro-2-nitrophenyl)furfural | 0.52 mmol, 131 mg | ClC1=CC(=C(C=C1)C1=CC=C(C=O)O1)[N+](=O)[O-] | C11H6ClNO4
reactant | HCl | 6 N, 2 equivalents | Cl | ClH
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
product | 3-(3-((5-(4-chloro-2-nitrophenyl)furan-2-yl)methylene)-3.4.5.6-tetrahydropyridin-2-yl)pyridine dihydrochloride | 95 mg, 47% | Cl.Cl.ClC1=CC(=C(C=C1)C1=CC=C(O1)C=C1C(=NCCC1)C=1C=NC=CC1)[N+](=O)[O-] | InChI=1S/C21H16ClN3O3.2ClH/c22-16-5-7-18(19(12-16)25(26)27)20-8-6-17(28-20)11-14-3-2-10-24-21(14)15-4-1-9-23-13-15;;/h1,4-9,11-13H,2-3,10H2;2*1H
